US04101667
600mg of 9-cyano-2-methoxy-10,11-dihydro-11-oxo-dibenzo-[b,f]thiepin hydrazone and 600mg of sodium hydroxide were added to 10ml of diethylene glycol and the resulting mixture was heated with stirring at 190°-200° C for 5 hours. After cooling, water was added to the mixture, which was extracted with benzene. The aqueous layer was acidified with hydrochloric acid and extracted with benzene. The benzene extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was chromatographed over silica gel and eluted with chloroform-ether (10:1). There was obtained 9-carboxy-2-methoxy-10,11-dihydrodibenzo[b,f]thiepin. Recrystallization from benzene afforded 140mg of the desired product as colorless needles having a melting point of 185°-187° C.

reactant | 9-cyano-2-methoxy-10,11-dihydro-11-oxo-dibenzo-[b,f]thiepin hydrazone | 600mg | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)OC)=NN | C16H13N3OS
reactant | sodium hydroxide | 600mg | [OH-].[Na+]
reactant | diethylene glycol | 10ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 9-carboxy-2-methoxy-10,11-dihydrodibenzo[b,f]thiepin | C(=O)(O)C1=CC=CC2=C1CCC1=C(S2)C=CC(=C1)OC | C16H14O3S
